US08492387B2
1-bromo-4-(4-bromophenyl)-3-(4-methoxyphenyl)butan-2-one (0.15 g, 0.36 mmol) was dissolved in methanol (1.8 mL) and methylamine (0.36 mL, 0.72 mmol, 2M solution in methanol) was added in one portion and the reaction was allowed to stir at 25° C. for 0.5 hour. S-ethylisothiourea hydrobromide (0.27 mg, 1.46 mmol) and NaOH (0.61 mL, 1.82 mmol, 3M solution in water) were added to the solution and the resulting solution was allowed to stir at 25° C. for 16 hours. The reaction was purified using reverse phase C-18 chromatography (acetontitrile and water system) to afford 140 mg of 4-[2-(4-bromophenyl)-1-(4-methoxyphenyl)ethyl]-1-methyl-1H-imidazol-2-amine as a yellow solid.

reactant | 1-bromo-4-(4-bromophenyl)-3-(4-methoxyphenyl)butan-2-one | 0.36 mmol, 0.15 g | BrCC(C(CC1=CC=C(C=C1)Br)C1=CC=C(C=C1)OC)=O | C17H16Br2O2
reactant | methylamine | 0.72 mmol, 2M, 0.36 mL | CN | CH5N
reactant | S-ethylisothiourea hydrobromide | 1.46 mmol, 0.27 mg | Br.C(C)SC(N)=N
reactant | NaOH | 1.82 mmol, 3M, 0.61 mL | [OH-].[Na+]
solvent | methanol | 1.8 mL | CO | CH4O
product | 4-[2-(4-bromophenyl)-1-(4-methoxyphenyl)ethyl]-1-methyl-1H-imidazol-2-amine | 140 mg | BrC1=CC=C(C=C1)CC(C1=CC=C(C=C1)OC)C=1N=C(N(C1)C)N | C19H20BrN3O
